US09024027B2
A mixture of 2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid (0.183 g, 0.557 mmol), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (0.234 g, 0.557 mmol), EDC (0.321 g, 1.672 mmol) and DMAP (0.034 g, 0.279 mmol) in DCM (20 ml) was stirred at room temperature for 2 hours. The mixture was diluted with DCM and washed with 1N HCl, 5% NaHCO3 and brine. The organic phase was dried over sodium sulfate, the solvent was removed, and the crude was purified by flash chromatography on silica gel cartridge (DCM:ethyl acetate from 1:1 to 4:1) affording (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide as a pale orange solid (0.097 g, 0.133 mmol, 24% yield). MS/ESI+ 730.13 [MH]+; [αD]=−33.40, c=0.43, DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 9.54 (br. s., 1H), 8.44 (s, 2H), 7.77 (s, 1H), 7.55 (s, 1H), 7.19 (d, 1H), 7.08 (d, 1H), 6.96 (dd, 1H), 7.08 (t, 1H), 6.01 (dd, 1H), 4.39 (s, 2H), 4.04 (s, 3H), 3.93 (d, 2H), 3.39 (dd, 1H), 3.23 (dd, 1H), 3.15 (s, 3H), 1.01-1.37 (m, 1H), 0.50-0.72 (m, 2H), 0.25-0.45 (m, 2H)

reactant | 2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid | 0.557 mmol, 0.183 g | COC=1C=C2C(N(C(C2=CC1NS(=O)(=O)C)=O)CC(=O)O)=O | C12H12N2O7S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.557 mmol, 0.234 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.672 mmol, 0.321 g
catalyst | DMAP | 0.279 mmol, 0.034 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-methoxy-6-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 0.133 mmol, 0.097 g, 24% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC(=C(C=C2C1=O)OC)NS(=O)(=O)C)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C30H27Cl2F2N3O10S
